US04889857
By the use of 2-chloromethyl-4-benzylmorpholine and pyrrolidine, the reaction is similarly carried out as Reference example 2 to give 2-(1-pyrrolidinylmethyl)morpholine.

reactant | 2-chloromethyl-4-benzylmorpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-(1-pyrrolidinylmethyl)morpholine | N1(CCCC1)CC1CNCCO1 | C9H18N2O
